US04560750
Benzhydryl 7β-(2',3'-dibromo-2'-ethylbutylideneamino)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate
To a solution of benzhydryl 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (2.47 g, 5.00 mmol) in methylene chloride (35 ml) was added under ice-cooling a solution of 2,3-dibromo-2-ethylbutanal (1.42 g, 5.50 mmol) in methylene chloride (5 ml) followed by addition of anhydrous magnesium sulfate. The resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was filtered, the filtrate was concentrated under reduced pressure and, after addition of benzene (20 ml) and thorough stirring, insolubles were filtered off. The filtrate was concentrated to dryness under reduced pressure and the reside was made powdery by the addition of ether (10 ml). The resulting powder was recovered by filtration and dried under reduced pressure to give 3.12 g (85%) of the title compound as a pale brown powder.

reactant | benzhydryl 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 5.00 mmol, 2.47 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N6O3S2
reactant | 2,3-dibromo-2-ethylbutanal | 5.50 mmol, 1.42 g | BrC(C=O)(C(C)Br)CC | C6H10Br2O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Benzhydryl 7β-(2',3'-dibromo-2'-ethylbutylideneamino)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 3.12 g, 85% | BrC(C=N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)(C(C)Br)CC | C29H30Br2N6O3S2
